US04665189
(b) (9-Methyl-6-decenyl)-triphenylphosphonium bromide
A solution of 9-bromo-2-methyl-4-decene (0.9 g) and triphenylphosphine (1.5 g) in xylene (50 ml) was heated under reflux for 4 days. The mixture was cooled, the supernatant was decanted and the residue was washed with ether and dried under vacuum to give the title compound as a pale gum.

reactant | 9-bromo-2-methyl-4-decene | 0.9 g | BrC(CCCC=CCC(C)C)C | C11H21Br
reactant | triphenylphosphine | 1.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
product | (9-Methyl-6-decenyl)-triphenylphosphonium bromide | [Br-].CC(CC=CCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C29H36P.BrH/c1-26(2)18-10-5-3-4-6-17-25-30(27-19-11-7-12-20-27,28-21-13-8-14-22-28)29-23-15-9-16-24-29;/h5,7-16,19-24,26H,3-4,6,17-18,25H2,1-2H3;1H/q+1;/p-1
